US05321029
1,3,7-Tri-cyclopropylmethyl-xanthine
1,3-Tri-cyclopropylmethyl-xanthine was prepared from 1,3-di-cyclopropylmethyl xanthine and cyclopropylchloromethane using an analogous procedure to that described in Example 5. The title compound was isolated as a crystalline solid, m.p. 78° C.

reactant | 1,3-di-cyclopropylmethyl xanthine | C1(CC1)CN1C(=O)N(C=2N=CNC2C1=O)CC1CC1 | C13H16N4O2
reactant | cyclopropylchloromethane | C1(CC1)CCl | C4H7Cl
product | 1,3,7-Tri-cyclopropylmethyl-xanthine | C1(CC1)CN1C(=O)N(C=2N=CN(C2C1=O)CC1CC1)CC1CC1 | C17H22N4O2
